US08791255B2
The product is prepared according to the procedure described in example 68, using 200 mg of sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate, 214 mg of 3,4,5-trifluoroaniline, and 180 mg of N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride in a mixture of 0.12 ml of pyridine and 2.5 ml of N,N-dimethylformamide. 72 mg of 2-(1-methyl-4-morpholin-4-yl-6-oxo-1,6-dihydropyrimidin-2-yl)-N-(3,4,5-trifluorophenyl)acetamide are obtained in the form of a cream solid, the characteristics of which are the following:

reactant | sodium [1-methyl-4-(morpholin-4-yl)-6-oxo-1,6-dihydropyrimidin-2-yl]acetate | 200 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)[O-].[Na+]
reactant | 3,4,5-trifluoroaniline | 214 mg | FC=1C=C(N)C=C(C1F)F | C6H4F3N
reactant | N-[3-(dimethylamino)propyl]-N′-ethylcarbodiimide hydrochloride | 180 mg | Cl.CN(CCCN=C=NCC)C
solvent | pyridine | 0.12 ml | N1=CC=CC=C1 | C5H5N
solvent | N,N-dimethylformamide | 2.5 ml | CN(C=O)C | C3H7NO
product | 2-(1-methyl-4-morpholin-4-yl-6-oxo-1,6-dihydropyrimidin-2-yl)-N-(3,4,5-trifluorophenyl)acetamide | 72 mg | CN1C(=NC(=CC1=O)N1CCOCC1)CC(=O)NC1=CC(=C(C(=C1)F)F)F | C17H17F3N4O3
